US06262046B1
2-(3,4-Dichlorophenyl)-5-hexenenitrile
To a solution of sodium hydride (14.8 g, 60% dispersion in mineral oil) in dimethylformamide (DMF, 150 ml) at 0° C. under nitrogen was added a solution of 3,4-dichlorophenylacetonitrile (68.9 g, 1 mol. equivalent) in DMF (300 ml) and the mixture was stirred for 3 hours. A solution of 4-bromobut-1-ene (50 g, 1 mol. eq.) in DMF (100 ml) was then added, and the mixture was stirred at room temperature for one hour, then heated to 60° C. for 5 hours. The reaction mixture was cooled and water (1 liter) was added. The mixture was then extracted with ethyl acetate (2×500 ml). The combined organic extracts were then washed with water (2×1 liter), dried over MgSO4 and the solvent was removed under reduced pressure. The residue was then purified by column chromatography using silica gel, eluting with a solvent gradient of ethyl acetate:hexane (1:19 to 1:6, by volume) to give the title compound (51.5 g).

reactant | sodium hydride | 14.8 g | [H-].[Na+]
reactant | 3,4-dichlorophenylacetonitrile | 1 mol, 68.9 g | ClC=1C=C(C=CC1Cl)CC#N | C8H5Cl2N
reactant | 4-bromobut-1-ene | 1 mol, 50 g | BrCCC=C | C4H7Br
reactant | water | 1 liter | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | DMF | 300 ml | CN(C=O)C | C3H7NO
solvent | DMF | 100 ml | CN(C=O)C | C3H7NO
product | 2-(3,4-Dichlorophenyl)-5-hexenenitrile | 51.5 g | ClC=1C=C(C=CC1Cl)C(C#N)CCC=C | C12H11Cl2N
